US08729078B2
To a solution of 1-[3-(6-tert-Butyl-1-oxo-1H-phthalazin-2-yl)-2-formyl-phenyl]-3-(trityl-amino)-1H-pyrazole-4-carbonitril (632 mg, 0.965 mmol) in methylene chloride (20 mL) and methanol (10 mL), at 0° C. was added sodium borohydride (37 mg, 0.965 mmol). The resulting turbid reaction mixture was stirred at 0° C. for 5 minutes and then allowed to stir at room temperature for 10 minutes. The reaction was then judged to be complete by TLC. The volatiles removed in vacuo and the crude product was bound to silica gel and purified over a 40 g silica gel cartridge eluting the column with a 20-50% EtOAc/hexanes gradient to give 1-[3-(6-tert-Butyl-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-3-(trityl-amino)-1H-pyrazole-4-carbonitrile (482 mg, 76%).

reactant | 1-[3-(6-tert-Butyl-1-oxo-1H-phthalazin-2-yl)-2-formyl-phenyl]-3-(trityl-amino)-1H-pyrazole-4-carbonitril | 0.965 mmol, 632 mg | C(C)(C)(C)C=1C=C2C=NN(C(C2=CC1)=O)C=1C(=C(C=CC1)N1N=C(C(=C1)C#N)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=O | C42H34N6O2
reactant | sodium borohydride | 0.965 mmol, 37 mg | [BH4-].[Na+]
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 10 mL | CO | CH4O
product | 1-[3-(6-tert-Butyl-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-3-(trityl-amino)-1H-pyrazole-4-carbonitrile | 482 mg, 76% | C(C)(C)(C)C=1C=C2C=NN(C(C2=CC1)=O)C=1C(=C(C=CC1)N1N=C(C(=C1)C#N)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CO | C42H36N6O2
